US06995144B2
2-tert-Butoxy-6-[2-[4-(2-fluorophenoxymethyl)piperidino]ethyl]pyrazine
After dissolving 262 mg of 2-tert-butoxy-6-vinylpyrazine and 401 mg of 4-(2-fluorophenoxymethyl)piperidine [CAS No.63608-34-4] in 3 ml of ethanol, the mixture was stirred for 2 days at 80° C. The reaction solution was concentrated under reduced pressure, and the residue was purified by NH silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (67 mg, 12% yield).

reactant | 2-tert-butoxy-6-vinylpyrazine | 262 mg | C(C)(C)(C)OC1=NC(=CN=C1)C=C | C10H14N2O
reactant | 4-(2-fluorophenoxymethyl)piperidine | 401 mg | FC1=C(OCC2CCNCC2)C=CC=C1 | C12H16FNO
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 2-tert-Butoxy-6-[2-[4-(2-fluorophenoxymethyl)piperidino]ethyl]pyrazine | 67 mg, 12% yield | C(C)(C)(C)OC1=NC(=CN=C1)CCN1CCC(CC1)COC1=C(C=CC=C1)F | C22H30FN3O2
